US07795436B2
3-Benzyl-6-bromo-8-methyl-2,3,4,9-tetrahydro-1H-3-aza-fluorene
To a solution of cis-3-benzyl-6-bromo-8-methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (680 mg, 1.8 mmol) in ethylene glycol (9.0 mL) was added hydrazine hydrate (1.8 mL). The reaction mixture was heated at 120° C. for 2 h and at 180° C. for additional 15 h. The reaction was cooled to 20° C., quenched by addition of brine and extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed in silica gel column (hexane/EtOAc 9/1) to give the title compound (42 mg, 0.12 mmol): MS (ES) 354.1 (M+H).

reactant | cis-3-benzyl-6-bromo-8-methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 1.8 mmol, 680 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=C(C=C(C=C3[C@H]2C1)Br)C)=O | C20H20BrNO
reactant | hydrazine hydrate | 1.8 mL | O.NN
solvent | ethylene glycol | 9.0 mL | C(CO)O | C2H6O2
product | 3-Benzyl-6-bromo-8-methyl-2,3,4,9-tetrahydro-1H-3-aza-fluorene | 0.12 mmol, 42 mg | C(C1=CC=CC=C1)N1CCC=2CC3=C(C=C(C=C3C2C1)Br)C | C20H20BrN
